US09259470B2
(S)-1-(2-(tert-Butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-((1,3-dimethyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.070 g, 0.12 mmol) was placed in THF (3 mL). TBAF (0.14 mL, 0.14 mmol) was added, and the mixture was stirred for 1 hour, then poured into water, and extracted with DCM. The combined organic fractions were dried (MgSO4), filtered, and concentrated to give the crude product, which was purified by column chromatography (500:20-500:30 DCM/MeOH) to give the product (S)-1-(1-(4-chloro-3-fluorophenyl)-2-hydroxyethyl)-4-(2-((1,3-dimethyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (0.040 g, 71% yield). m/z (APCI-pos) M+1=455.

reactant | (S)-1-(2-(tert-Butyldimethylsilyloxy)-1-(4-chloro-3-fluorophenyl)ethyl)-4-(2-((1,3-dimethyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.12 mmol, 0.070 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C1=CC(=C(C=C1)Cl)F)N1C(C=C(C=C1)C1=NC(=NC=C1)NC=1C(=NN(C1)C)C)=O | C28H34ClFN6O2Si
reactant | TBAF | 0.14 mmol, 0.14 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | water | O | H2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (S)-1-(1-(4-chloro-3-fluorophenyl)-2-hydroxyethyl)-4-(2-((1,3-dimethyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | 0.040 g, 71% yield | ClC1=C(C=C(C=C1)[C@@H](CO)N1C(C=C(C=C1)C1=NC(=NC=C1)NC=1C(=NN(C1)C)C)=O)F | C22H20ClFN6O2
